US06291530B1
A solution of (5-bromo-2-methoxyphenyl)acetic acid (20.0 g, 81.6 mmol) in THF (400 mL) cooled to 0°, followed by dropwise addition of 1M BH3.THF in THF (122.4 mL, 122.4 mmol). After addition is complete, the solution is warmed to room temperature and stirring is continued for 1 hour. At this time, the reaction is cooled back to 0° and quenched with water (50 mL). The mixture is concentrated to 80 mL in vacuo, and the residue is extracted with EtOAc (3×150 mL). Te combined organic phase is washed with water (1×50 mL) and brine (1×50 mL), dried over MgSO4, and concentrated in vacuo to give 2-(5-bromo-2-methoxyphenyl)-1-ethanol.

reactant | (5-bromo-2-methoxyphenyl)acetic acid | 81.6 mmol, 20.0 g | BrC=1C=CC(=C(C1)CC(=O)O)OC | C9H9BrO3
reactant | BH3.THF | 1M | B.C1CCOC1
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 122.4 mmol, 122.4 mL | C1CCOC1 | C4H8O
product | 2-(5-bromo-2-methoxyphenyl)-1-ethanol | BrC=1C=CC(=C(C1)CCO)OC | C9H11BrO2
